US06919331B2
N-Hydroxy-1-(3-methyl-butyl)-2-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1H-benzoimidazole-5-carboxamidine (75 mg, 0.191 mmol) was treated with phosgene (1 ml, 1.91 mmol, 1.92 M in toluene) and heated to reflux for 2.5 h. The mixture was cooled and stirred for 48 h. A white precipitate was isolated by filtration to give 21 mg (26%) of 1-[1-(3-Methyl-butyl)-5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one.

reactant | N-Hydroxy-1-(3-methyl-butyl)-2-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1H-benzoimidazole-5-carboxamidine | 0.191 mmol, 75 mg | ONC(=N)C1=CC2=C(N(C(=N2)CN2C(NC3=C2C=CC=C3)=O)CCC(C)C)C=C1 | C21H24N6O2
reactant | phosgene | 1.91 mmol, 1.92 M, 1 ml | C(=O)(Cl)Cl | CCl2O
product | 1-[1-(3-Methyl-butyl)-5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one | 21 mg, 26% | CC(CCN1C(=NC2=C1C=CC(=C2)C2=NOC(N2)=O)CN2C(NC1=C2C=CC=C1)=O)C | C22H22N6O3
